US06890947B2
(Z)-2-Ethoxy-3-(1H-indol-5-yl)-acrylic Acid Ethyl Ester
To a solution of 25.73 g of (1,2-diethoxy-2-oxoethyl)triphenyl phosphonium chloride in 200 ml of dichloromethane was added at 0° C. 8.0 ml of tetramethyl guanidine and the mixture was warmed to 22° C. The mixture was treated with 5.81 g of 5-formyl-indole and stirring was continued at 40° C. for 16 h. The mixture was treated again with 25.73 g of the Wittig salt and 8.0 ml of tetramethyl guanidine and stirring was continued at 40° C. for 24 h after which time the conversion was complete. The mixture was evaporated and the residue partitioned between AcOEt and water. The organic layer was dried, evaporated and the residue chromatographed on silica (n-hexane/AcOEt, 2:1) to give 9.80 g of the title compound as an oil which solidified on storing at 22° C. to give a pale yellow solid. MS: (M)+ 259.2.

reactant | (1,2-diethoxy-2-oxoethyl)triphenyl phosphonium chloride | 25.73 g | [Cl-].C(C)OC(C(=O)OCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | tetramethyl guanidine | 8.0 ml | CN(C(N(C)C)=N)C | C5H13N3
reactant | 5-formyl-indole | 5.81 g | C(=O)C=1C=C2C=CNC2=CC1 | C9H7NO
reactant | tetramethyl guanidine | 8.0 ml | CN(C(N(C)C)=N)C | C5H13N3
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | (Z)-2-Ethoxy-3-(1H-indol-5-yl)-acrylic Acid Ethyl Ester | 9.80 g | C(C)OC(/C(=C/C=1C=C2C=CNC2=CC1)/OCC)=O | C15H17NO3
